US04188489
Synthesis of Ethyl-β-methanesulfonylamino-β-ethoxy Acrylate
To a solution of 15.9 g of ethyl-β-amino-β-ethoxy acrylate in 60 ml of benzene was added 10.3 g of triethylamine, and a solution of 11.5 g of methanesulfonyl chloride in 40 ml of benzene was dropped thereinto with stirring. After the dropping, the resulting mixture was stirred at room temperature for 5 hours. The crystals formed were separated. The filtrate was concentrated under reduced pressure and the concentrated residue crystallized by cooling. When the crystals were washed with n-hexane and dried, 16 g of prismatic crystals of a melting point of 103° to 104° C. was obtained.

reactant | ethyl-β-amino-β-ethoxy acrylate | 15.9 g | C(C=C)(=O)OOC(C)(N)CC | C7H13NO3
reactant | triethylamine | 10.3 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 11.5 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | Ethyl-β-methanesulfonylamino-β-ethoxy Acrylate | 16 g | C(C=C)(=O)OOC(C)(NS(=O)(=O)C)CC | C8H15NO5S
